US04260612
10.0 g. (31.83 mmoles) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are dissolved in 100 ml. anhydrous ethanol. 6.9 ml. (63.66 mmoles) of N-methylaniline are added to the solution, whereafter the reaction mixture is boiled under reflux for 8 hours. When the reaction is completed the solvent is distilled off at reduced pressure. To the residue 100 cm3 5% by weight aqueous solution of hydrochloric acid is added followed by extraction of the product twice with 30 ml. chloroform. The combined organic layers are dried above calcinated sodium sulfate and evaporated in vacuo. The residue is dissolved in 25 cm3 of methanol and allowed to stand overnight in a refrigerator. The precipitated crystals are filtered and washed with some methanol. 2.8 g. (25.9%) of 9-(N-methyl-anilino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester is obtained which after recrystallization from methanol melts at 131°-133° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 31.83 mmoles | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2Br)C | C12H15BrN2O3
reactant | N-methylaniline | 63.66 mmoles | CNC1=CC=CC=C1 | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 9-(N-methyl-anilino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 25.9% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CC=C2N(C2=CC=CC=C2)C)C | C19H21N3O3
